US09334263B2
To a solution of ethyl 2-(4-(tert-butoxycarbonyl)piperazin-1-yl)pyrimidine-5-carboxylate (17 g, crude) in THF/methanol/H2O (300 mL) was added sodium hydroxide (4.3 g, 107.5 mmol), and the reaction mixture was stirred at 70 0° C. for 2 hours. LCMS showed the reaction was completed. The reaction mixture was brought to pH≈5-6 with 1 M HCl, and then filtered. The solid was collected and dried to give 2-(4-(tert-butoxycarbonyl)piperazin-1-yl)pyrimidine-5-carboxylic acid as a white solid (16 g, 96%), which was directly used in the next step without further purification. MS (ES+) C14H20N4O4 requires: 308, found: 253 [M-56+H]+.

reactant | ethyl 2-(4-(tert-butoxycarbonyl)piperazin-1-yl)pyrimidine-5-carboxylate | 17 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C(=O)OCC | C16H24N4O4
reactant | sodium hydroxide | 107.5 mmol, 4.3 g | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | THF methanol H2O | 300 mL | C1CCOC1.CO.O
product | 2-(4-(tert-butoxycarbonyl)piperazin-1-yl)pyrimidine-5-carboxylic acid | 16 g, 96% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C(=O)O | C14H20N4O4
